US07122543B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (1.22 g, 2.6548 mmol) was dissolved in methanol (100 ml), trimethylsilyl diazomethane (36.3 g, 10% solution in hexane, 31.8421 mmol) was added thereto under cooling with ice and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added acetic acid (0.5 ml) and the mixture was allowed to stand at room temperature for 16 hours so as to decompose an excessive reagent. The residue obtained by concentration of the reaction solution was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (1.18 g, 2.5321 mmol, 95%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 2.6548 mmol, 1.22 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | trimethylsilyl diazomethane | 31.8421 mmol, 36.3 g | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate | 2.5321 mmol, 1.18 g, 95% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C27H30O7
